US07666883B2
Experimental Procedure for the Synthesis of Ethyl 2-[(2-chloro-5-phenylpyridine-3-yl)(hydroxy)methyl]acrylate (Is)
To a mixture of 2-Chloro-5-phenylnicotinaldehyde (10 mmol, 2.17 g) and DABCO (10 mmol. 1.12 g) was added an methy/ethyl acrylate (60 mmol.) under neat conditions [solvent free conditions] at room temperature and the reaction progress was monitored by TLC. Upon completion of the reaction mixture (˜5 min.) was diluted with diethyl ether (300 ml) and washed with water 3×50 ml. The organic layer was dried over Na2SO4 and concentrated, the residue was subjected to column chromatography over silica gel, eluting with ethyl acetate and hexane (2:8, v/v) to give the desired product in almost quantitative (316.5 g.).

reactant | 2-Chloro-5-phenylnicotinaldehyde | 10 mmol, 2.17 g | ClC1=C(C=O)C=C(C=N1)C1=CC=CC=C1 | C12H8ClNO
reactant | DABCO | 10 mmol, 1.12 g | C1CN2CCN1CC2 | C6H12N2
reactant | ethyl acrylate | 60 mmol | C(C=C)(=O)OCC | C5H8O2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | Ethyl 2-[(2-chloro-5-phenylpyridine-3-yl)(hydroxy)methyl]acrylate | ClC1=NC=C(C=C1C(C(C(=O)OCC)=C)O)C1=CC=CC=C1 | C17H16ClNO3
